US08227500B2
4-Butyl-5-methyl-1H-pyrrole-3-carbonitrile
To a suspension of sodium hydride (60%, 0.096 g) in diethyl ether (3 mL) were added a solution of 1-(toluene-4-sulfonyl)ethylisocyanide (0.42 g) and 2-heptenenitrile (0.22 g) in a mixed solvent of diethyl ether (3 mL) and dimethylsulfoxide (3 mL) at room temperature, and this mixture was stirred at room temperature for 1 hour. To this reaction mixture was added water (15 mL). This mixture was extracted with ethyl acetate, and this organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane) to give the title compound (0.19 g).

reactant | sodium hydride | 0.096 g | [H-].[Na+]
reactant | 1-(toluene-4-sulfonyl)ethylisocyanide | 0.42 g | C1(=CC=C(C=C1)S(=O)(=O)C(C)[N+]#[C-])C | C10H11NO2S
reactant | 2-heptenenitrile | 0.22 g | C(C=CCCCC)#N | C7H11N
reactant | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
reactant | diethyl ether | 3 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | water | 15 mL | O | H2O
product | 4-Butyl-5-methyl-1H-pyrrole-3-carbonitrile | 0.19 g | C(CCC)C=1C(=CNC1C)C#N | C10H14N2
